US09193721B2
Step E: 8-Chloro-5-(3-fluorophenyl)imidazo[1,2-a]pyridine-6-carboxylic acid
A solution of methyl 8-chloro-5-(3-fluorophenyl)imidazo[1,2-a]pyridine-6-carboxylate (0.18 g, 0.57 mmol) in tetrahydrofuran (3 mL) was treated with 1 M sodium hydroxide in water (1.7 mL, 1.7 mmol) and stirred at 20° C. for 6 hours. The reaction mixture was concentrated, diluted with water, cooled to 0° C., and treated with 1 M hydrogen chloride in water (2.3 mL, 2.3 mmol) dropwise. The resultant suspension was filtered to give the desired product (0.17 g, quantitative) that was used without further purification. LCMS calculated for C14H9ClFN2O2 (M+H)+: m/z=291.0. found: 290.9.

reactant | methyl 8-chloro-5-(3-fluorophenyl)imidazo[1,2-a]pyridine-6-carboxylate | 0.57 mmol, 0.18 g | ClC=1C=2N(C(=C(C1)C(=O)OC)C1=CC(=CC=C1)F)C=CN2 | C15H10ClFN2O2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | water | 1.7 mmol, 1.7 mL | O | H2O
reactant | hydrogen chloride | 1 M | Cl | ClH
reactant | water | 2.3 mmol, 2.3 mL | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 8-Chloro-5-(3-fluorophenyl)imidazo[1,2-a]pyridine-6-carboxylic acid | 0.17 g | ClC=1C=2N(C(=C(C1)C(=O)O)C1=CC(=CC=C1)F)C=CN2 | C14H8ClFN2O2
